US06096811
N-(4-carboxyphenyl)-bicyclo[2.2.2]oct-5-en-2,3-dicarboximide
To a solution of K2CO3 (5.88 g, 42.5 mmol) in H2O (100 mL) was added 4-aminobenzoic acid (5.83 g, 42.5 mmol) and bicyclo[2.2.2]oct-5-en-2,3-dicarboxylic anhydride (7.20 g, 40.4 mmol). The reaction mixture was stirred at room temperature for 18 hrs. and then washed with ethylacetate (EtOAc) (75 ml,). The aqueous phase was acidified with conc. HCl until the pH reached 1. The precipitated crystals were filtered and dried: 11.77 g (98%), mp=269° C.

reactant | K2CO3 | 42.5 mmol, 5.88 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-aminobenzoic acid | 42.5 mmol, 5.83 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | bicyclo[2.2.2]oct-5-en-2,3-dicarboxylic anhydride | 40.4 mmol, 7.20 g | C12C3C(C(C=C1)CC2)C(=O)OC3=O | C10H10O3
solvent | H2O | 100 mL | O | H2O
product | N-(4-carboxyphenyl)-bicyclo[2.2.2]oct-5-en-2,3-dicarboximide | C(=O)(O)C1=CC=C(C=C1)N1C(=O)C2C3C=CC(C2C1=O)CC3 | C17H15NO4
